US06777417B2
Synthesis of 4-(3-{2-[5-Ethanesulfonyl-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propyl)-piperazine-1-carboxylic acid ethyl ester
4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazine-1-carboxylic acid ethyl ester (65 mg, 0.1 87 mmol), prepared as described in Example 8, was condensed with 5-ethylsulfonyloxindole (61 mg, 1.01 eq.) give the desired product.

reactant | 4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazine-1-carboxylic acid ethyl ester | 87 mmol, 65 mg | C(C)OC(=O)N1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C19H29N3O3
reactant | 5-ethylsulfonyloxindole | 61 mg, 1.01 eq. | C(C)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C10H11NO3S
product | 4-(3-{2-[5-Ethanesulfonyl-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propyl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)CCCC1=C(NC=2CCCCC12)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC)=O | C29H38N4O5S
